US06727264B1
4-{[(1R)-3-chloro-1-phenylpropyl]oxy}-1,2-dimethoxybenzene:
A mixture of 3,4-dimethoxyphenol (4.07 g, 26.4 mmol), (S)-(−)-3-chloro-phenyl-1-propanol (4.50 g, 26.4 mmol, 99%ee, Aldrich Chemical Co.), triphenylphosphine (6.92 g, 26.4 mmol) and diethyl azodicarboxylate (4.59 g, 26.4 mmol) in THF (110 mL) was stirred at room temperature for 24 h. The reaction mixture was concentrated in vacuo. At this point, the residue can either be washed with pentane (×3) and the combined pentane extracts were concentrated and chromatographed (silica with hexanes-EtOAc 8:1 as the eluent) to give the desired product (as described as a general procedure by: Srebnik, M.; Ramachandran, P. V.; Brown, H. C. J. Org. Chem. 1988, 53, 2916-2920). This procedure was performed on a smaller scale reaction and only a 40% yield of the product was realized.

reactant | 3,4-dimethoxyphenol | 26.4 mmol, 4.07 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | (S)-(−)-3-chloro-phenyl-1-propanol | 26.4 mmol, 4.50 g | ClC=1C=C(C=CC1)[C@H](CC)O | C9H11ClO
reactant | triphenylphosphine | 26.4 mmol, 6.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 26.4 mmol, 4.59 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | 4-{[(1R)-3-chloro-1-phenylpropyl]oxy}-1,2-dimethoxybenzene | ClCC[C@H](C1=CC=CC=C1)OC1=CC(=C(C=C1)OC)OC | C17H19ClO3
